US08283354B2
tert-Butyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-ylcarbamate (0.54 g, 1.24 mmol) was dissolved in CH2Cl2 (15 mL) followed by the addition of TFA (8 mL). The reaction was stirred for 1.5 h, and the solvents were evaporated to an oily liquid which was diluted with CH2Cl2 and neutralized with a 1 M aqueous NaOH solution. The organic layer was separated, and the aqueous layer was washed two times with CH2Cl2. After drying the combined organic phases over MgSO4, they were filtered, and concentrated to afford 2-(4-((R)-3-aminopiperidin-1-yl)-7-methylquinazolin-2-yl)phenol as a solid (0.354 g, 85%). LC/MS: m/z 335.7 (M+H)+ at 1.42 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA))

reactant | tert-Butyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-ylcarbamate | 1.24 mmol, 0.54 g | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O)C | C25H30N4O3
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((R)-3-aminopiperidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.354 g, 85% | N[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O
